US06605629B1
To a mixture of 4-(4-fluorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolebutanol (315 mg), 2-methylphenol (216 mg), tributylphosphine (405 mg) and tetrahydrofuran (5ml) was added 1,1′-(azodicarbonyl)dipiperidine (505mg) at room temperature, and the resulting mixture was stirred for 1 hour. After the reaction mixture was concentrated, the residue was subjected to silica gel column chromatography, and 4-(4-fluorophenyl)-2-(2-methyl-1-imidazolyl)-5-[4-(2-methylphenoxy)butyl]oxazole was obtained as an oil (367 mg, 91%) from an ethyl acetate-hexane (1:1, v/v)-eluted fraction.

reactant | 4-(4-fluorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolebutanol | 315 mg | FC1=CC=C(C=C1)C=1N=C(OC1CCCCO)N1C(=NC=C1)C | C17H18FN3O2
reactant | 2-methylphenol | 216 mg | CC1=C(C=CC=C1)O | C7H8O
reactant | tributylphosphine | 405 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 505mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 5ml | O1CCCC1 | C4H8O
product | 4-(4-fluorophenyl)-2-(2-methyl-1-imidazolyl)-5-[4-(2-methylphenoxy)butyl]oxazole | FC1=CC=C(C=C1)C=1N=C(OC1CCCCOC1=C(C=CC=C1)C)N1C(=NC=C1)C | C24H24FN3O2
